# Qucs 0.0.21-dev  chargepump.sch

C:C1 gnd Source C="10 pF" V=""
R:R1 Source _net0 R="10k" Temp="26.85" Tc1="0.0" Tc2="0.0" Tnom="26.85"
MOSFET:T1 Gate Drain Source _net1 Type="nfet" Vt0="0.7 V" Kp="50e-6" Gamma="0.96" Phi="0.5763 V" Lambda="0.0" Rd="0.0 Ohm" Rs="0.0 Ohm" Rg="0.0 Ohm" Is="0 A" N="1.0" W="3.5 um" L="5.5 um" Ld="0.5e-6" Tox="50e-9" Cgso="0.0" Cgdo="0.0" Cgbo="0.0" Cbd="0.0 F" Cbs="0.0 F" Pb="0.7 V" Mj="0.5" Fc="0.5" Cjsw="0.05e-9" Mjsw="0.33" Tt="0.0 ps" Nsub="1e16" Nss="0.0" Tpg="1" Uo="600.0" Rsh="20" Nrd="1" Nrs="1" Cj="1e-4" Js="1e-8" Ad="100p" As="100p" Pd="50u" Ps="50u" Kf="0.0" Af="1.0" Ffe="1.0" Temp="26.85" Tnom="26.85"
Vac:V1 Gate gnd U="5 V" f="10 MHz" Phase="0" Theta="0"
Vac:V3 _net1 gnd U="-5 V" f="10 MHz" Phase="0" Theta="0"
Vac:V2 Drain _net0 U="5 V" f="10 MHz" Phase="0" Theta="0"
.TR:TR1 Type="lin" Start="0 ns" Stop="2 us" Points="200" IntegrationMethod="Trapezoidal" Order="2" InitialStep="1 ns" MinStep="1e-16" MaxIter="150" reltol="0.001" abstol="1 pA" vntol="1 uV" Temp="26.85" LTEreltol="1e-3" LTEabstol="1e-6" LTEfactor="1" Solver="CroutLU" relaxTSR="no" initialDC="yes" MaxStep="0"
